US07763657B2
Step 3: 3-[4-(tert-butyl)phenyl]-N-[4-(methanesulfonylamino)-3-vinyl benzyl]propionamide
N-[4-(aminomethyl)-2-vinylphenyl]methanesulfonamide (0.23 mol) and was suspended in methylene chloride and treated with triethylamine followed by 3-(4-tert-butyl-phenyl)-propionic acid and DMTMM (40 mg). The resulting mixture was stirred for 2 days at ambient temperature and concentrated under reduced pressure. The crude residue was column-chromatographed (hexane/ethylacetate=3/2) to yield a white solid (73%).

reactant | N-[4-(aminomethyl)-2-vinylphenyl]methanesulfonamide | 0.23 mol | NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C10H14N2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-(4-tert-butyl-phenyl)-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)CCC(=O)O | C13H18O2
reactant | DMTMM | 40 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-(tert-butyl)phenyl]-N-[4-(methanesulfonylamino)-3-vinyl benzyl]propionamide | 73% | C(C)(C)(C)C1=CC=C(C=C1)CCC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C23H30N2O3S
